* Z:\mnt\spice-netlists\LTM4639_LT1935_LTC2997_DC2166A_1.asc
V1 IN 0 5
R1 IN N005 10K
C1 N009 0 .001µ
R3 N010 0 60.4K
C3 OUT 0 470µ
Rload OUT 0 60m
C4 OUT 0 100µ x2
C6 IN 0 22µ x2
C7 N008 0 1.5n
R2 N008 0 124K
C8 N013 0 180p
XU1 0 N007 OUT 0 OUT N006 N006 N004 0 N008 N010 N013 N009 N005 IN 0 NC_01 N013 N002 N012 0 LTM4639
C9 IN 0 150µ
XU2 N001 0 N003 IN IN LT1935
C10 IN 0 4.7µ
L1 IN N001 2.2µ
D1 N001 N002 CMDSH2-3
R4 N002 N003 29.4K
R5 N003 0 10K
C11 N002 0 22µ
XU3 N012 0 N011 N004 0 NC_02 LTC2997
C5 N012 0 470p
R6 N007 N004 100K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* LTM4639 - Low Vin, 20A Step-Down µModule Regulator\nHigh Efficiency 20A µModule Buck Regulator\nInput: 2.375V to 7V     Output: 1.2V @ 20A, Fsw = 520kHz
* Notes:\n  A smaller TRACK/SS capacitor is being used to reduce simulation time. Typical value should be 0.1µF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LT1935.sub
.lib LTC2997.sub
.lib LTM4639.sub
.backanno
.end
